US05556860
Synthesis of 3-(1-benzylpiperidin-4-yl)-6-chloro-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
In similar way as in Preparation Example 24, the title compound was synthesized from 5-chloro-2-trichloroacetylaminobenzophenone and 4-amino-1-benzylpiperidine.

reactant | 5-chloro-2-trichloroacetylaminobenzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)NC(C(Cl)(Cl)Cl)=O | C15H9Cl4NO2
reactant | 4-amino-1-benzylpiperidine | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
product | 3-(1-benzylpiperidin-4-yl)-6-chloro-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O | C26H26ClN3O
